US08017792B2
Then, 1.6 M n-butyllithium hexane solution (22.9 mL) was added to a mixture of 4-bromophenetole (7.3 g, 0.037 mol) and tetrahydrofuran (70 mL) at −78° C. After stirred for 0.5 hours, 4-benzyloxy-3-bromobenzaldehyde (7.0 g, 0.024 mol) in a tetrahydrofuran (70 mL) solution was added and further stirred for 15 minutes, and the reaction mixture was warmed to room temperature. After the reaction mixture was added with a saturated ammonium chloride aqueous solution and extracted with ethyl acetate, the organic phase was washed with brine and dried with anhydrous magnesium sulfate. After the desiccant was filtered off, the residue obtained by evaporating the solvent under reduced pressure was purified by silica gel column chromatography (hexane:ethyl acetate=4:1) to obtain colorless oily [4-(benzyloxy)-3-bromophenyl](4-ethoxyphenyl)methanol (8.7 g, 86%).

reactant | n-butyllithium hexane | 1.6 M, 22.9 mL | CCCCCC.C(CCC)[Li]
reactant | 4-bromophenetole | 0.037 mol, 7.3 g | BrC1=CC=C(C=C1)OCC | C8H9BrO
reactant | 4-benzyloxy-3-bromobenzaldehyde | 0.024 mol, 7.0 g | C(C1=CC=CC=C1)OC1=C(C=C(C=O)C=C1)Br | C14H11BrO2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 70 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 70 mL | O1CCCC1 | C4H8O
product | [4-(benzyloxy)-3-bromophenyl](4-ethoxyphenyl)methanol | 8.7 g, 86% | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C(O)C1=CC=C(C=C1)OCC)Br | C22H21BrO3
